US07622471B2
2-(Piperidin-2-yl)acetic acid ethyl ester
Platinum(IV) oxide (15 mg) was added to a mixture of 2-(2-pyridyl)acetic acid ethyl ester (1.652 g) in water (1.25 mL) and concentrated hydrochloric acid (1.25 mL) in methanol (15 mL), and the resultant mixture was stirred in a hydrogen atmosphere at room temperature for 15 hours. The catalyst was filtered off. The solvent was evaporated under reduced pressure, and ethanol was added to the residue, and then the solvent of the mixture was evaporated again under reduced pressure. To the residue, a small amount of water, diethyl ether (about 100 mL), and an excessive amount of potassium carbonate were added, and the resultant mixture was stirred, followed by filtration. The solvent of the filtrate was evaporated under reduced pressure, to thereby give the title compound as an oily product (1.322 g, 77%).

reactant | 2-(2-pyridyl)acetic acid ethyl ester | 1.652 g | C(C)OC(CC1=NC=CC=C1)=O | C9H11NO2
reactant | hydrogen | [H][H] | H2
solvent | water | 1.25 mL | O | H2O
solvent | hydrochloric acid | 1.25 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
catalyst | Platinum(IV) oxide | 15 mg | [Pt](=O)=O
product | 2-(Piperidin-2-yl)acetic acid ethyl ester | C(C)OC(CC1NCCCC1)=O | C9H17NO2
